US07713979B2
Combine trans-3-(4 bromo-2-chloro-benzyl)-1-[4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyl]-piperidin-2-one (Preparation 65) (0.2 g, 0.49 mmol), 3-pyridine boronic acid (0.2 g, 1.49 mmol), tetrakis(triphenylphosphine)palladium(0) (0.06 g, 0.05 mmol), Na2CO3 (1.1 g, 9.95 mmols), water (1.5 mL), 1,2-dimethoxy-ethane (7 mL) and heat at 80° C. for 24 hours. Cool the reaction mixture to room temperature, add saturated aqueous NaHCO3 (5 mL) and extract with EtOAc (3×10 mL). Dry the organic.layer over anhydrous Na2SO4, remove the solvent and purify the residue by chromatography over silica gel (eluting with 50 to 100% EtOAc in hexane) to obtain trans-1-[4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyl]-3-(2-chloro-4-pyridine-3-yl-benzyl)-piperidin-2-one as a white solid (0.2 g, 80%).

reactant | trans-3-(4 bromo-2-chloro-benzyl)-1-[4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyl]-piperidin-2-one | 0.49 mmol, 0.2 g | BrC1=CC(=C(CC2C(N(CCC2)[C@@H]2CC[C@H](CC2)O[Si](C)(C)C(C)(C)C)=O)C=C1)Cl | C24H37BrClNO2Si
reactant | 3-pyridine boronic acid | 1.49 mmol, 0.2 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | Na2CO3 | 9.95 mmols, 1.1 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | NaHCO3 | 5 mL | C(=O)(O)[O-].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.05 mmol, 0.06 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,2-dimethoxy-ethane | 7 mL | COCCOC | C4H10O2
solvent | water | 1.5 mL | O | H2O
product | trans-1-[4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyl]-3-(2-chloro-4-pyridine-3-yl-benzyl)-piperidin-2-one | 0.2 g, 80% | C(C)(C)(C)[Si](O[C@@H]1CC[C@H](CC1)N1C(C(CCC1)CC1=C(C=C(C=C1)C=1C=NC=CC1)Cl)=O)(C)C | C29H41ClN2O2Si
